US08710163B2
6-{2-[(Mesitylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde (5b).
A solution of 32.4 g (113 mmol) of Na2CO3(H2O)10 in a mixture of 180 ml of methanol and 600 ml of water was added to a mixture of 8.37 g (45.0 mmol) of 6-bromopyridine-2-carbaldehyde, 18.1 g (45.0 mmol) of 2,4,6-trimethyl-N-{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}aniline and 2.65 g (2.30 mmol) of Pd(PPh3)4 in 600 ml of toluene by vigorous stirring at room temperature. The resulting mixture was stirred at 80° C. for 12 h. Thereafter, this mixture was cooled to room temperature, the organic layer was separated, dried over MgSO4, and then evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um; eluent: dichloromethane-ethyl acetate=100:1 and then 10:1, vol.). Yield 10.7 g (63%). Anal. calc. for C26H24N2O: C, 82.07; H, 6.36; N, 7.36. Found: C, 82.24; H, 6.49; N, 7.18. 1H NMR (CDCl3): 10.12 (s, 1H, CHO), 8.06 (m, 1H, 3-H in Py), 7.90-7.99 (m, 3H, 5,7,8-H in naphthyl), 7.63 (d, J=8.3 Hz, 4-H in naphthyl), 7.54 (m, 1H, 5-H in Py), 7.49 (m, 1H, 4-H in Py), 7.39 (m, 1H, 6-H in naphthyl), 7.28 (d, J=8.3 Hz, 3-H in naphthyl), 6.74 (s, 2H, 3,5-H in mesityl), 3.98 (d, J=13.1 Hz, 1H, CHH′N), 3.89 (d, J=13.1 Hz, 1H, CHH′N), 3.37 (br.s, 1H, NH), 2.20 (s, 3H, 4-Me in mesityl), 2.04 (s, 6H, 2,6-Me in mesityl).

reactant | 6-bromopyridine-2-carbaldehyde | 45.0 mmol, 8.37 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 2,4,6-trimethyl-N-{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}aniline | 45.0 mmol, 18.1 g | CC1=C(NCC2=C(C3=CC=CC=C3C=C2)B2OC(C(O2)(C)C)(C)C)C(=CC(=C1)C)C | C26H32BNO2
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | methanol | 180 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 2.30 mmol, 2.65 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{2-[(Mesitylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde | C1(=C(C(=CC(=C1)C)C)NCC1=C(C2=CC=CC=C2C=C1)C1=CC=CC(=N1)C=O)C | C26H24N2O
